US07335658B2
Synthesis of 2-PHENOXY-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}ACETAMIDE
To a stirred solution of [4-(6-aminopyridazin-3-yl)-piperazin-1-yl]-(2-trifluoromethyl-phenyl)methanone (105 mg, 0.300 mmol) in dichloromethane (10 mL) was added phenoxyacetyl chloride (56 mg, 0.32 mmol) followed by the addition of triethylamine (0.15 mL) at 0° C. The mixture was stirred at ambient temperature overnight. Water was added and the mixture was extracted with ethyl acetate (2×15 mL). The combined organic layer was washed sequentially with diluted HCl, sodium bicarbonate and brine solution, then dried with Na2SO4, concentrated. The residue was re-dissolved in small amount of dichloromethane and purified by column chromatography. The title compound was isolated as a white solid in 34% yield (50 mg). 1H NMR (300 MHz, CDCl3) δ 9.28, 8.38, 7.75, 7.64, 7.56, 7.35, 7.04, 4.65, 4.01, 3.68, 3.34.

reactant | [4-(6-aminopyridazin-3-yl)-piperazin-1-yl]-(2-trifluoromethyl-phenyl)methanone | 0.300 mmol, 105 mg | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | phenoxyacetyl chloride | 0.32 mmol, 56 mg | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-PHENOXY-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}ACETAMIDE | 34% yield | O(C1=CC=CC=C1)CC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H22F3N5O3
